US07067540B2
N-{4-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-2-oxopyridin-1(2H)-yl]-3,5-difluorobenzyl}-1H-imidazole-4-carboxamide
1-[4-(aminomethyl)-2,6-difluorophenyl]-3-chloro-4-[(2,4-difluorobenzyl)oxy]pyridin-2(1H)-one hydrochloride (150 mg, 0.334 mmol) is dissolved in a solution of 4 ml tetrahydrofuran and triethylamine (35 mg, 0.35 mmol). 4-imidazolecarboxylic acid (62 mg, 0.56 mmol), 1-hydroxybenzotriazole hydrate (90 mg, 0.67 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (128 mg, 0.668 mmol), and triethylamine (100 mg, 0.989 mmol) were combined in 5 ml tetrahydrofuran and stirred under nitrogen. The solution containing 1-[4-(aminomethyl)-2,6-difluorophenyl]-3-chloro-4-[(2,4-difluorobenzyl)oxy]pyridin-2(1H)-one hydrochloride was added in one portion, rinsing with 2 ml tetrahydrofuran. Stirring was continued at room temperature overnight, then the reaction was poured into 90 ml of icewater, and the product collected by filtration and dired in vacuo (254 mg, 94%). 1H-NMR (400 MHz, DMSO-d6) δ 12.55 (br s, 1H), 8.73 (t, J=6.57 Hz, 1H), 7.90 (d, J=7.87 Hz, 1H), 7.75 (s, 1H), 7.67 (m, 2H), 7.35, (dt, J=10.04, 2.54 Hz, 1H), 7.21 (m, 3H), 6.78 (d, J=8.04 Hz, 1H), 5.39 (s, 2H), 4.47 (m, 2H), 1 9F-NMR (400 MHz, DMSO-d6) δ−109.26 (quintet, J=7.87 Hz, 1F), −113.52 (quartet, J=9.30 Hz, 1F), −120.59 (d, J=9.21 Hz, 2F). LC/MS tr=4.48 minutes (0-95% acetonitrile/water, 0.05% trifluoroacetic acid, over 6 minutes at 1 ml/min with detection at 215 nm, at 50° C.) ES-MS m/z 507 (M+H). ES-HRMS m/z 507.0818 (M+H calcd for C23H16ClF4N4O3 requires 507.0842).

reactant | 1-[4-(aminomethyl)-2,6-difluorophenyl]-3-chloro-4-[(2,4-difluorobenzyl)oxy]pyridin-2(1H)-one hydrochloride | 0.334 mmol, 150 mg | Cl.NCC1=CC(=C(C(=C1)F)N1C(C(=C(C=C1)OCC1=C(C=C(C=C1)F)F)Cl)=O)F
reactant | triethylamine | 0.35 mmol, 35 mg | C(C)N(CC)CC | C6H15N
reactant | 4-imidazolecarboxylic acid | 0.56 mmol, 62 mg | N1C=NC(=C1)C(=O)O | C4H4N2O2
reactant | 1-hydroxybenzotriazole hydrate | 0.67 mmol, 90 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.668 mmol, 128 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.989 mmol, 100 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-{4-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-2-oxopyridin-1(2H)-yl]-3,5-difluorobenzyl}-1H-imidazole-4-carboxamide | ClC=1C(N(C=CC1OCC1=C(C=C(C=C1)F)F)C1=C(C=C(CNC(=O)C=2N=CNC2)C=C1F)F)=O | C23H15ClF4N4O3
